US07507828B2
4-[3-(4-Dimethylamino-benzyl)-ureido]-N-hydroxy-butyramide (2)
To a solution of the N-benzyloxy-4-[3-(4-dimethylamino-benzyl)-ureido]-butyramide (287 mg, 0.747 mmol) in methanol (15 mL) was added 10% palladium on carbon (30 mg) and the resulting reaction was allowed to stir under a hydrogen atmosphere for 18 hr, after which time the reaction mixture was filtered and concentrated in vacuo to provide provide compound 2,which was used without further purification. (203 mg, 92% yield). 1H NMR (300 MHz, DMSO-d6) δ (ppm) 10.38 (s, 1H), 8.69 (s, 1H), 7.06 (d, J=9.0 Hz, 2H), 6.67(d, J=9.0 Hz, 2H), 6.10 (t, J=5.4 Hz, 1H), 5.87 (t, J=5.4 Hz, 1H), 4.06 (d, J=5.7 Hz, 2H), 2.97 (dt, J=6.6, 6.3 Hz, 2H), 2.85 (s, 6H), 1.94 (t, J=7.2 Hz, 2H), 1.57 (m, 2H). 13C NMR (75 MHz, DMSO-d6) δ (ppm) 168.8, 157.9, 149.4, 128.2, 127.9, 112.3, 42.4, 40.2, 38.8, 29.8, 26.3.

reactant | N-benzyloxy-4-[3-(4-dimethylamino-benzyl)-ureido]-butyramide | 0.747 mmol, 287 mg | C(C1=CC=CC=C1)ONC(CCCNC(=O)NCC1=CC=C(C=C1)N(C)C)=O | C21H28N4O3
solvent | methanol | 15 mL | CO | CH4O
catalyst | palladium on carbon | 30 mg | [Pd] | Pd
product | 4-[3-(4-Dimethylamino-benzyl)-ureido]-N-hydroxy-butyramide | 92% yield | CN(C1=CC=C(CNC(NCCCC(=O)NO)=O)C=C1)C | C14H22N4O3
